US05994368
To a solution of 8-[3-(N-acetoxyacetyl-n-methylamino)-2,6-dichlorobenzyloxy]-2-methylquinoline (640 mg) in methanol (6.4 ml) was added potassium carbonate (395 mg), and the mixture was stireed for 2 hours at ambient temperature. To the mixture was added chloroform and water, the organic layer was washed with water and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica gel (chloroform:ethyl acetate=3.1, V/V) to give 8-[2,6-dichloro-3-(N-hydroxyacetyl-N-methylamino)benzyloxy]-2-methylquinoline (580 mg) as colorless amorphous.

reactant | 8-[3-(N-acetoxyacetyl-n-methylamino)-2,6-dichlorobenzyloxy]-2-methylquinoline | 640 mg | C(C)(=O)OCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C22H20Cl2N2O4
reactant | potassium carbonate | 395 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | methanol | 6.4 ml | CO | CH4O
product | 8-[2,6-dichloro-3-(N-hydroxyacetyl-N-methylamino)benzyloxy]-2-methylquinoline | 580 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CO)=O)Cl | C20H18Cl2N2O3
